US08859591B2
Methyl 4-(4-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)pent-1-en-2-yl)benzoate (19.8 mg, 0.0460 mmol) was dissolved in methanol (0.5 mL) and tetrahydrofuran (0.5 mL). 1 N Sodium hydroxide (0.092 mL) was added and the reaction was stirred at room temperature for 60 hours. The reaction was concentrated. The crude residue was taken up in water and acidified to pH=2 with 1N HCl. This solution was extracted four times with ethyl acetate, dried over magnesium sulfate, filtered, and concentrated to provide 4-(4-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)pent-1-en-2-yl)benzoic acid (18.3 mg, 96%) as an approximate 1:1 mixture of E/Z isomers. 1H NMR (400 MHz, CD3OD, δ): 8.76 (s, 1H), 8.62 (s, 1H), 8.02 (d, J=8.4 Hz, 2H), 7.98 (s, 1H), 7.97-7.93 (m, 2H), 7.90 (s, 1H), 7.85-7.79 (m, 2H), 7.58 (d, J=8.4 Hz, 2H), 7.54-7.47 (m, 4H), 7.30-7.24 (m, 2H), 7.06-7.00 (m, 2H), 6.84 (s, 1H), 6.56 (s, 1H), 2.70 (d, J=7.2 Hz, 2H), 2.46 (dd, J=7.2, 1.0 Hz, 2H), 1.63 (dt, J=13.5, 6.7 Hz, 1H), 1.57-1.46 (m, 1H), 0.92 (d, J=6.6 Hz, 6H), 0.80 (d, J=6.6 Hz, 6H).

reactant | Methyl 4-(4-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)pent-1-en-2-yl)benzoate | 0.0460 mmol, 19.8 mg | CC(CC(=CC1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)OC)C=C1)C | C24H23F3N2O2
reactant | Sodium hydroxide | 1 N, 0.092 mL | [OH-].[Na+]
solvent | methanol | 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 4-(4-methyl-1-(4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)pent-1-en-2-yl)benzoic acid | 18.3 mg, 96% | CC(CC(=CC1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)O)C=C1)C | C23H21F3N2O2
